US04788196
N-Methyl-4-[4-(4-pyridyl)piperazin-1-yl]benzenesulphonamide
A mixture of 1-(4-pyridyl)piperazine (0.86 g), N-methyl-4-fluorobenzenesulphonamide (1.00 g) and potassium carbonate (2.00 g) in N-methylpyrrolidone was stirred at 100° C. for 24 hours and then evaporated. The residue was partitioned between dichloromethane and 2N hydrochloric acid. The acid layer was washed with dichloromethane, filtered and made basic with sodium bicarbonate solution. The mixture was extracted several times with chloroform, and the combined extracts were washed with water, dried over magnesium sulphate and evaporated. The residue was crystallised from ethanol/ethyl acetate to give the title compound (0.12 g), m.p. 204°-206° C. Found: C,57.55; H,6.13; N,16.62. C16H20N4O2S requires: C,57.81; H,6.06; N,16.85%.

reactant | 1-(4-pyridyl)piperazine | 0.86 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | N-methyl-4-fluorobenzenesulphonamide | 1.00 g | CNS(=O)(=O)C1=CC=C(C=C1)F | C7H8FNO2S
reactant | potassium carbonate | 2.00 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N-Methyl-4-[4-(4-pyridyl)piperazin-1-yl]benzenesulphonamide | 0.12 g | CNS(=O)(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C16H20N4O2S
